US05644028
To a solution of 20.00 g (114 mmol) of L-cysteine hydrochloride monohydrate in 60 ml of water, 12 ml (1.4 eq) of 37% formalin containing 8% methanol was added and the resultant mixture was stirred for 6 h at room temperature. To this, 76 ml (2.0 eq) of 3N NaOH aqueous solution and a solution of 27.4 g (1.1 eq) of di-tert-butyl dicarbonate in 60 ml of THF were added and the mixture was stirred for 2 h. After addition of 8 ml (0.2 eq) of 3N NaOH aqueous solution, the reaction mixture was stirred overnight at room temperature, concentrated to remove THF under reduced pressure, washed with 80 ml of toluene, acidified by 23 ml of 6N hydrochloric acid, and extracted with 160 ml of ethyl acetate. The organic extract was concentrated under reduced pressure, dried by toluene azeotrope, and crystallized in hexane to give 25.37 g (Y. 95.3%) of (R)-3-tert-butoxycarbonyl-1,3-thiazolidine-4-carboxylic acid [Boc--Thz--OH].

reactant | L-cysteine hydrochloride monohydrate | 114 mmol, 20.00 g | O.Cl.N[C@@H](CS)C(=O)O
reactant | formalin | 12 ml, 1.4 eq | C=O | CH2O
reactant | NaOH | 3N, 76 ml, 2.0 eq | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 27.4 g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 3N, 8 ml, 0.2 eq | [OH-].[Na+]
solvent | water | 60 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (R)-3-tert-butoxycarbonyl-1,3-thiazolidine-4-carboxylic acid | 25.37 g, 95.3% | C(C)(C)(C)OC(=O)N1CSC[C@H]1C(=O)O | C9H15NO4S
